US07528256B2
1.2 g of Pd[P(Ph)3]4 and 7.6 g of p-fluorobenzeneboronic acid are added to a solution of 14.3 g of 5-bromonicotinic acid morpholinamide in 100 g of THF. A solution of 8.0 g of Na2CO3 in 25 g of water is subsequently added dropwise with stirring at 65° C. After 16 hours, the reaction mixture is cooled and evaporated in a rotary evaporator. The residue is taken up in dichloromethane, activated carbon is added, and the mixture is filtered. Repeated extraction of the filtrate with water and evaporation in a rotary evaporator gives a residue of 15.7 g, which, according to HPLC, comprises 89% of 5-(4-fluorophenyl)pyridine-3-carboxylic acid morpholinamide (net yield 93% of theory). Recrystallisation from ethyl acetate gives 8.0 g of 5-(4-fluorophenyl)pyridine-3-carboxylic acid morpholinamide having an HPLC purity of 99.6% (53.3% of theory).

reactant | p-fluorobenzeneboronic acid | 7.6 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 5-bromonicotinic acid morpholinamide | 14.3 g | N1(CCOCC1)C(=O)N.BrC=1C=NC=C(C(=O)O)C1
reactant | Na2CO3 | 8.0 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 g | C1CCOC1 | C4H8O
solvent | water | 25 g | O | H2O
product | 5-(4-fluorophenyl)pyridine-3-carboxylic acid morpholinamide | yield 93% | N1(CCOCC1)C(=O)N.FC1=CC=C(C=C1)C=1C=C(C=NC1)C(=O)O | InChI=1S/C12H8FNO2.C5H10N2O2/c13-11-3-1-8(2-4-11)9-5-10(12(15)16)7-14-6-9;6-5(8)7-1-3-9-4-2-7/h1-7H,(H,15,16);1-4H2,(H2,6,8)
